US05719141
h) 2(S)-Tert-butoxycarbonylamino-3-[1-(2-benzyloxyethyl)cyclopropyl]-propan-1-ol
A mixture of 23.9 g of 3-tert-butoxycarbonyl-2,2-dimethyl-4(S)-[1-(2-benzyloxyethyl)cyclopropylmethyl]1,3-oxazolidine, 0.67 g of p-toluenesulfonic acid hydrate and 100 ml of methanol is stirred at room temperature for 5 h. After the reaction mixture has been concentrated, diethyl ether is added. The organic phase is washed with saturated sodium bicarbonate solution and saturated sodium chloride solution and added over sodium sulfate. The crude product is purified by means of FC over 900 g of silica gel (mobile phase gradient from E to A): Rf (C)=0.26; anal. calc. for C20H31NO4 : C68.74%, H8.94%, N4.01%; found C68.44%, H8.93%, N4.09%.

reactant | 3-tert-butoxycarbonyl-2,2-dimethyl-4(S)-[1-(2-benzyloxyethyl)cyclopropylmethyl]1,3-oxazolidine | 23.9 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1(CC1)CCOCC1=CC=CC=C1)(C)C | C23H35NO4
reactant | p-toluenesulfonic acid hydrate | 0.67 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 100 ml | CO | CH4O
product | 2(S)-Tert-butoxycarbonylamino-3-[1-(2-benzyloxyethyl)cyclopropyl]-propan-1-ol | C(C)(C)(C)OC(=O)N[C@H](CO)CC1(CC1)CCOCC1=CC=CC=C1 | C20H31NO4
